US08202863B2
2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid 3-[(propane-2-sulfonylamino)-methyl]-benzylamide
Following procedures similar to those of Example 72 (step 2) but substituting isopropanesulfonyl chloride (1.3 mmol) for methanesulfonyl chloride there is prepared 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid 3-[(propane-2-sulfonylamino)-methyl]-benzylamide (7 mg) as a solid. MS: 443 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 1.20 (d, J=6.8 Hz, 6H), 3.05 (m, 1H), 4.17 (d, J=6.4 Hz, 2H), 4.55 (d, J=5.9 Hz, 2H), 7.27-7.62 (m, 5H), 8.17 (m, 1H), 8.32 (m, 1H), 9.32 (s, 2H), 9.45 (m, 1H).

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid 3-[(propane-2-sulfonylamino)-methyl]-benzylamide | 7 mg | CC(C)S(=O)(=O)NCC=1C=C(CNC(=O)C=2C(=NC(=NC2)C2=CC(=CC=C2)F)C)C=CC1 | C23H25FN4O3S
product | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid 3-[(propane-2-sulfonylamino)-methyl]-benzylamide | CC(C)S(=O)(=O)NCC=1C=C(CNC(=O)C=2C=NC(=NC2)C2=CC(=CC=C2)F)C=CC1 | C22H23FN4O3S
